US04130502
To a suspension of 66.6 g. of anhydrous aluminum chloride in 200 ml. of carbon disulphide there are added at -15° C., with stirring, 39 g. of acetyl chloride and thereafter 41 g. of cyclohexene. The reaction mixture is stirred for 30 minutes at -15° C. and then the upper carbon disulphide layer is removed and replaced by 400 ml. of n-pentylbenzene. After the addition of a further 33 g. of aluminum chloride, while stirring, the reaction mixture is warmed up to ambient temperature and further stirred until the evolution of hydrogen chloride ceases. Thereafter, the reaction mixture is poured onto ice water, the separated aluminum hydroxide is brought into solution with hydrochloric acid and the organic phase is separated off, dried and distilled. After stripping off excess n-pentylbenzene, the 4-acetyl-1-(4-pentylphenyl)-cyclohexane thus obtained is distilled off under reduced pressure; yield 48 g.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | cyclohexene | C1=CCCCC1 | C6H10
solvent | carbon disulphide | C(=S)=S | CS2
product | 4-acetyl-1-(4-pentylphenyl)-cyclohexane | C(C)(=O)C1CCC(CC1)C1=CC=C(C=C1)CCCCC | C19H28O
